US07897619B2
6-(1-((S)-3-Amino-4-(4-chlorophenyl)butyl)-1H-pyrazol-4-yl)benzo[d]oxazol-2(3H)-one:
tert-Butyl(S)-1-(4-chlorophenyl)-4-(4-(2-oxoindolin-5-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate was dissolved in DCM (2 mL), TFA (2 mL, 26 mmol) was added, and the mixture was stirred for 2 hours. The mixture was concentrated by vacuum distillation and partially purified with reverse-phase HPLC (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 mL/min, 10-95% CH3CN/H2O 0.1% TFA, 10.5 minute gradient). After concentrating the sample by vacuum distillation, the residue was dissolved in MeOH and loaded onto an Agilent AccuBOND II SCX solid phase extraction column. After washing with MeOH, the desired compound was eluted with 2M NH3 in MeOH. The residue was partially purified using column chromatography (2M NH3 in MeOH/DCM 0-5%). The residue was purified SFC chromatography (Princeton Chromatography Pyridine column 21×250 mm, 5 um, 65 mL/min, 40° C., outlet pressure 100 bar, 220 nm, 10-50% MeOH 2% DEA/CO2, 5 minute gradient) to give a tan film (7.1 mg, 4%). HRMS (TOF) Calcd for C20H20ClN4O2+: 383.1269, found: 383.1268.

reactant | tert-Butyl(S)-1-(4-chlorophenyl)-4-(4-(2-oxoindolin-5-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@@H](CCN1N=CC(=C1)C=1C=C2CC(NC2=CC1)=O)NC(OC(C)(C)C)=O | C26H29ClN4O3
reactant | TFA | 26 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-(1-((S)-3-Amino-4-(4-chlorophenyl)butyl)-1H-pyrazol-4-yl)benzo[d]oxazol-2(3H)-one | N[C@H](CCN1N=CC(=C1)C1=CC2=C(NC(O2)=O)C=C1)CC1=CC=C(C=C1)Cl | C20H19ClN4O2
